US08937091B2
1-ethyl-4-acryloylbenzene 8237
Ethylbenzene (0.5 mL), acryloyl chloride (120 mg), and aluminium chloride (199 mg) were reacted in dichloromethane (1.5 mL) at from 0° C. to room temperature for 4 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (110 mg).

reactant | Ethylbenzene | 0.5 mL | C(C)C1=CC=CC=C1 | C8H10
reactant | acryloyl chloride | 120 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 199 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 1-ethyl-4-acryloylbenzene | 110 mg | C(C)C1=CC=C(C=C1)C(C=C)=O | C11H12O
